US08871790B2
Compound 168.1. Methyl 4-cyclobutylbenzoate
To a stirred mixture of ZnBr2 (83.0 g, 368.53 mmol, 4.00 equiv) in THF (500 mL) under nitrogen at 0° C. was added a solution of bromo(cyclobutyl)magnesium (242 mL, 364 mmol, 1.5 M in THF) dropwise during 20 min. To the resulting mixture were added Pd(dppf)Cl2 (2.00 g, 0.10 equiv) and methyl 4-bromobenzoate (20 g, 93.00 mmol, 1.00 equiv) at −40° C. The resulting mixture was stirred at −40° C. for 1 h under nitrogen, and then carefully quenched with 500 mL of NH4Cl(aq., sat.). The mixture was extracted with 3×500 mL of ethyl acetate. The combined organic layers were washed with 3×500 mL of brine, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure to yield 18.0 g (crude) of the title compound as a light yellow oil.

reactant | bromo(cyclobutyl)magnesium | 364 mmol, 1.5 M, 242 mL | Br[Mg]C1CCC1
reactant | methyl 4-bromobenzoate | 93.00 mmol, 20 g, 1.00 equiv | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | ZnBr2 | 368.53 mmol, 83.0 g, 4.00 equiv | [Zn+2].[Br-].[Br-]
catalyst | Pd(dppf)Cl2 | 2.00 g, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 4-cyclobutylbenzoate | C1(CCC1)C1=CC=C(C(=O)OC)C=C1 | C12H14O2
